US06087309
Preparation of Sodium 7-methylhexadecyl Sulfate
Into a dried 1 L 3 neck round bottom flask fitted with a nitrogen inlet, dropping funnel, thermometer, mechanical stirring and nitrogen outlet is added chloroform (300 ml) and 7-methylhexadecanol (124 g, 0.484 mol), prepared as an intermediate in Example I. Chlorosulfonic acid (60 g, 0.509 mol) is slowly added to the stirred mixture while maintaining 25-30° C. temperature with a ice bath. Once HCl evolution has stopped (1 hr.) slowly add sodium methoxide (25% in methanol) while keeping temperature at 25-30° C. until an aliquot at 5% concentration in water maintains a pH of 10.5. To the mixture is added hot ethanol (55° C., 2 L). The mixture is vacuum filtered immediately. The filtrate is concentrated to a slurry on a rotary evaporator, cooled and then poured into 2 L of ethyl ether. The mixture is chilled to 5° C., at which point crystallization occurs, and vacuum filtered. The crystals are dried in a vacuum oven at 50° C. for 3 hrs. to obtain a white solid (136 g, 92% active by cat SO3 titration).

reactant | 7-methylhexadecanol | 0.484 mol, 124 g | CC(CCCCCCO)CCCCCCCCC | C17H36O
reactant | Chlorosulfonic acid | 0.509 mol, 60 g | ClS(=O)(=O)O | ClHO3S
reactant | HCl | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | Sodium 7-methylhexadecyl Sulfate | S(=O)(=O)(OCCCCCCC(CCCCCCCCC)C)[O-].[Na+] | InChI=1S/C17H36O4S.Na/c1-3-4-5-6-7-8-11-14-17(2)15-12-9-10-13-16-21-22(18,19)20;/h17H,3-16H2,1-2H3,(H,18,19,20);/q;+1/p-1
